US09120747B2
A. (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-[1,2,3]triazole-4-carbonyl)-amino]pentanoic Acid
1-Hydroxy-1H-1,2,3-triazole-4-carboxylic acid (17.6 mg, 136 μmol) and HCTU (56.4 mg, 136 μmol) were combined in DMF and stirred for 5 minutes at room temperature. DIPEA (71.2 μl, 409 μmol) and (2R,4R)-4-amino-5-(4-bromophenyl)-2-hydroxypentanoic acid ethyl ester (43 mg, 140 μmol) were added and the resulting mixture was stirred for 10 minutes. The reaction mixture was evaporated under reduced pressure and purified (C18 reverse phase column). The purified material was combined with 3-chlorophenylboronic acid, pinacol ester (48.1 mg, 202 μmol), K2CO3 (41.8 mg, 302 μmol), EtOH (1 ml) and water (0.3 ml). Oxygen was removed (high vacuum) and SilicaCat®Pd(0) (0.09 mmol/g loading; 112 mg, 10.1 μmol) was quickly added under nitrogen. The mixture was microwaved at 100° C. for 20 minutes, then concentrated. The material was redissolved in AcOH and purified by preparative HPLC to yield the title compound (12 mg; purity 95%). MS m/z [M+H]+ calc'd for C20H19ClN4O5, 431.10. found 431.4.

reactant | 1-Hydroxy-1H-1,2,3-triazole-4-carboxylic acid | 136 μmol, 17.6 mg | ON1N=NC(=C1)C(=O)O | C3H3N3O3
reactant | HCTU | 136 μmol, 56.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 409 μmol, 71.2 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,4R)-4-amino-5-(4-bromophenyl)-2-hydroxypentanoic acid ethyl ester | 140 μmol, 43 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)Br)N)O)=O | C13H18BrNO3
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | K2CO3 | 302 μmol, 41.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Oxygen | O=O | O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 0.3 ml | O | H2O
solvent | EtOH | 1 ml | CCO | C2H6O
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-[1,2,3]triazole-4-carbonyl)-amino]pentanoic Acid | 12 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C=1N=NN(C1)O | C20H19ClN4O5
